US06432982B1
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-chlorophenyl]methanone
2.6 g(8.12 mmol) of 4-[2-(1-piperidinyl)ethoxy]-3-chlorobenzoic acid hydrochloride was dissolved in 25 mL of dichloromethane and 50 mL of SOCl2 with three drops of DMF. The reaction was reluxed for sixteen hours under a nitrogen atmosphere. The reaction mixture was evaporated to dryness, then re-dissolved in 50 mL of dichloromethane. 2.2 g (8.12 mmol) of 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene was added to the solution and cooled to 0° C. 7.6 g (56.8 mmol) of AlCl3 was added in three portions to the reaction mixture and allowed to proceed for 1.5 hours. The reaction was quenched by pouring into ice. The organic layer was separated and washed with Na2CO3 solution and with water. The organic layer was dried by filtration through Na2SO4 and evaporated to dryness. The crude material was chromatographed on a silica gel column (HPLC) with a linear gradient beginning with CHCl3 and ending with MeOH-CHCl3 (1:9). The desired fractions were determined by tlc, combined, and evaporated to dryness. This yielded 1.3 g of the title compound as a yellow amorphous foam. PMR: Consistent with the proposed structure

reactant | 4-[2-(1-piperidinyl)ethoxy]-3-chlorobenzoic acid hydrochloride | 8.12 mmol, 2.6 g | Cl.N1(CCCCC1)CCOC1=C(C=C(C(=O)O)C=C1)Cl
reactant | SOCl2 | 50 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene | 8.12 mmol, 2.2 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14O2S
reactant | AlCl3 | 56.8 mmol, 7.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | DMF | three drops | CN(C)C=O | C3H7NO
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-chlorophenyl]methanone | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)OCCN2CCCCC2)Cl | C30H30ClNO4S
